US04419517
A. N-Cyclobutylmethyl-4a-(m-methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline
The procedure in Example 9, Part A was followed in which 4a-(m-methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline (10.74 g) in 135 ml of anhydrous dimethylformamide was added to a 55% suspension of sodium hydride in mineral oil (2.15 g) in 90 ml of dimethylformamide at 70° C. Cyclobutylmethylmesylate (9 g) was added and the reaction heated at 80°-90° C. for 6 hours, then at 25° C. for 10 hours. This gave, after chromatography, a crystalline product (6 g), mp 89°-93° C.

reactant | 4a-(m-methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline | 10.74 g | COC=1C=C(C=CC1)C12CC(NC(C2=CCCC1)=O)=O | C16H17NO3
reactant | sodium hydride | [H-].[Na+]
reactant | Cyclobutylmethylmesylate | 9 g | C1(CCC1)CCS(=O)(=O)[O-]
solvent | dimethylformamide | 135 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | N-Cyclobutylmethyl-4a-(m-methoxyphenyl)-1,3-diketo-1,2,3,4,4a,5,6,7-octahydroisoquinoline | C1(CCC1)CN1C(C2=CCCCC2(CC1=O)C1=CC(=CC=C1)OC)=O | C21H25NO3
